US07863291B2
A solution of cyclopentanol (2.25 g, 26.1 mmol) in tetrahydrofuran (12 ml) was added dropwise to a suspension of sodium hydride (1.31 g, 32.6 mmol) in tetrahydrofuran (48 ml) at 0° C. The mixture was stirred at 0° C. for 30 min and a solution of 4,6-dichloropyrimidine (3.6 g, 24.16 mmol) in tetrahydrofuran (12 ml) was added at 0° C. The reaction mixture was stirred at ambient temperature for 3 h and poured into sat. aqueous ammonium chloride and extracted with ethyl acetate. The organic layers were washed with water, dried over magnesium sulfate and concentrated in vacuo. The orange residue was purified by column chromatography (10-40% ethyl acetate/hexanes). To afford 4-chloro-6-(cyclopentyloxy)pyrimidine as a pale yellow oil. This material was used directly for the next reaction.

reactant | cyclopentanol | 26.1 mmol, 2.25 g | C1(CCCC1)O | C5H10O
reactant | sodium hydride | 32.6 mmol, 1.31 g | [H-].[Na+]
reactant | 4,6-dichloropyrimidine | 24.16 mmol, 3.6 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 48 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-(cyclopentyloxy)pyrimidine | ClC1=NC=NC(=C1)OC1CCCC1 | C9H11ClN2O
